US06632810B2
Synthesis of N,N′-bis[(5,6,7-trimethoxyindol-2-yl)-methyl]piperazine:
N,N′-Bis(5,6,7-trimethoxyindole-2-carbonyl)-piperazine (148 mg) was dissolved in THF (5 mL), and lithium aluminum hydride (10 mg) was gradually added to the solution under ice cooling. The mixture was warmed to room temperature and stirred for 6 hours, and sodium sulfate decahydrate was added thereto. After filtration, the filtrate was concentrated under reduced pressure and purified by column chromatography on silica gel (chloroform:methanol=20:1) to obtain the title compound as a free base.

reactant | N,N′-Bis(5,6,7-trimethoxyindole-2-carbonyl)-piperazine | 148 mg | COC=1C=C2C=C(NC2=C(C1OC)OC)C(=O)N1CCN(CC1)C(=O)C=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C28H32N4O8
reactant | lithium aluminum hydride | 10 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulfate decahydrate | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | N,N′-bis[(5,6,7-trimethoxyindol-2-yl)-methyl]piperazine | COC=1C=C2C=C(NC2=C(C1OC)OC)CN1CCN(CC1)CC=1NC2=C(C(=C(C=C2C1)OC)OC)OC | C28H36N4O6
